US04897405
Preparation of N'-Hydroxy-2-(7-bromonaphthalenyl)ethanimidamide
Hydroxylamine hydrochloride (1.14 g, 16.5 mmol) was dissolved in aqueous sodium hydroxide (1N, 16.5 mL, 16.5 mmol) and the solution diluted with DMSO (50 mL). 7-Bromo-2-naphthalenylacetonitrile (1.35 g, 5.5 mmol) was added in one portion and the resulting mixture heated to 60° C. After a total of 18 hours, the mixture was cooled to room temperature and diluted with water (100 mL) to give a precipitate. The precipitate was collected by filtration, washed with water, and dried in vacuo to give a tan solid (1.24 g, 81%) which was of sufficient purity for use in the subsequent reaction.

reactant | Hydroxylamine hydrochloride | 16.5 mmol, 1.14 g | Cl.NO
reactant | sodium hydroxide | 16.5 mmol, 1N, 16.5 mL | [OH-].[Na+]
reactant | 7-Bromo-2-naphthalenylacetonitrile | 5.5 mmol, 1.35 g | BrC1=CC=C2C=CC=C(C2=C1)CC#N | C12H8BrN
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
product | N'-Hydroxy-2-(7-bromonaphthalenyl)ethanimidamide | 1.24 g, 81% | ON=C(CC1=CC=CC2=CC=C(C=C12)Br)N | C12H11BrN2O
